datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC[N:10](CC)CCCC(C)Nc1cc(C)nc2cc(Cl)ccc12.Cc1cc2nc3ccc(N(C)C)cc3nc2cc1[NH:21][H:20]>>CC[N+:10](CC)(CCCC(C)Nc1cc(C)nc2cc(Cl)ccc12)[H:20].Cc1cc2nc3ccc(N(C)C)cc3nc2cc1[NH-:21] 10=20;20,21=21",
"Cc1cc2nc3ccc(N(C)C)cc3[n:10]c2cc1N.N#CC(C#N)=N[N:21](c1ccc([N+](=O)[O-])cc1Cl)[H:20]>>Cc1cc2nc3ccc(N(C)C)cc3[n+:10]([H:20])c2cc1N.N#CC(C#N)=N[N-:21]c1ccc([N+](=O)[O-])cc1Cl 10=20;20,21=21",
"O=C(CC(c1[nH]cc[nH+]1)c1[nH]cc[nH+]1)[O:21][H:20].O=C(c1ccc([N+](=O)[O-])cc1O)[O-:10]>>O=C(CC(c1[nH]cc[nH+]1)c1[nH]cc[nH+]1)[O-:21].O=C(c1ccc([N+](=O)[O-])cc1O)[O:10][H:20] 10=20;20,21=21",
"CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1.O=C([O-])[C@H](NCC[NH:10][C@@H](C(=O)[O-])c1ccccc1[O-])c1ccccc1[O-]>>CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1.O=C([O-])[C@H](NCC[NH+:10]([C@@H](C(=O)[O-])c1ccccc1[O-])[H:20])c1ccccc1[O-] 10=20;20,21=21",
"C/C(=N\[O-:10])C(=O)[O-].Cc1n(C)c2ccccc2[n+:21]1[H:20]>>C/C(=N\[O:10][H:20])C(=O)[O-].Cc1n(C)c2ccccc2[n:21]1 10=20;20,21=21",
"CC1CCCC(C(C)C(=O)[O-:10])C1.Cc1ccccc1C(O)C(C(=O)[O:21][H:20])c1ccc(-c2ccccc2)cc1>>CC1CCCC(C(C)C(=O)[O:10][H:20])C1.Cc1ccccc1C(O)C(C(=O)[O-:21])c1ccc(-c2ccccc2)cc1 10=20;20,21=21",
"Clc1cc([O-:10])cc(Cl)c1Cl.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Clc1cc([O:10][H:20])cc(Cl)c1Cl.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COc1ccc([O:21][H:20])c(CNC(CO)C(=O)[O-])c1.Cc1cccc2ccc([O-:10])cc12>>COc1ccc([O-:21])c(CNC(CO)C(=O)[O-])c1.Cc1cccc2ccc([O:10][H:20])cc12 10=20;20,21=21",
"COc1ccc(C(=O)[O:21][H:20])cc1.COc1ccc([N+](=O)[O-])c(C[NH2:10])c1>>COc1ccc(C(=O)[O-:21])cc1.COc1ccc([N+](=O)[O-])c(C[NH2+:10][H:20])c1 10=20;20,21=21",
"CC([NH3+])C(=O)[O-:10].CCNc1cc[nH+]c([O-])[n+:21]1[H:20]>>CC([NH3+])C(=O)[O:10][H:20].CCNc1cc[nH+]c([O-])[n:21]1 10=20;20,21=21",
"[H:20][NH2+:21]CCCC.[CH-:10]1C2=C(C=CC=C2)SC1=O>>[H:20][CH:10]1C2=C(C=CC=C2)SC1=O.CCCC[NH2:21] 10=20;20,21=21",
"COc1ccc([O-:10])c(Br)c1.C[n+]1c(N)cc[n+:21]([H:20])c1[O-]>>COc1ccc([O:10][H:20])c(Br)c1.C[n+]1c(N)cc[n:21]c1[O-] 10=20;20,21=21",
"Nc1cc(Cl)cc(C[NH2:10])c1.O=C(c1ccc([N+](=O)[O-])cc1Cl)[O:21][H:20]>>Nc1cc(Cl)cc(C[NH2+:10][H:20])c1.O=C(c1ccc([N+](=O)[O-])cc1Cl)[O-:21] 10=20;20,21=21",
"Brc1ccc([S-:10])cc1.C[NH+:21](CCCc1ccccc1)[H:20]>>Brc1ccc([S:10][H:20])cc1.C[NH:21]CCCc1ccccc1 10=20;20,21=21",
"FCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>FCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)S(=O)(=O)n1c(N)[n+:21]([H:20])c2ccc(C(=CC(N)=O)c3cc(F)ccc3F)cc21.CCOCCn1c(N2CCC[N:10](CCCCn3cc(C(=O)[O-])cn3)CC2)nc2ccccc21>>CC(C)S(=O)(=O)n1c(N)[n:21]c2ccc(C(=CC(N)=O)c3cc(F)ccc3F)cc21.CCOCCn1c(N2CCC[N+:10](CCCCn3cc(C(=O)[O-])cn3)([H:20])CC2)nc2ccccc21 10=20;20,21=21",
"CC(=O)Nc1cccc([O:21][H:20])c1.O=C([O-])c1cccc([N+](=O)[O-])c1[O-:10]>>CC(=O)Nc1cccc([O-:21])c1.O=C([O-])c1cccc([N+](=O)[O-])c1[O:10][H:20] 10=20;20,21=21",
"CC1CCCC(C)(C)[NH:10]1.ClC(Cl)C[O:21][H:20]>>CC1CCCC(C)(C)[NH+:10]1[H:20].ClC(Cl)C[O-:21] 10=20;20,21=21",
"CCCCCCCCCCCCCCCCCC[NH:10]CCCCCCCCCCCCCCCCCC.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CCCCCCCCCCCCCCCCCC[NH+:10](CCCCCCCCCCCCCCCCCC)[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"C[NH2+]CCN(C)CC[NH:10]C.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>C[NH2+]CCN(C)CC[NH+:10](C)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"[O-]c1c(Cl)cc(Cl)cc1C[N+:21]1([H:20])CCOCC1.c1cc([C@@H]2CCCN2)nc([C@@H]2CCC[NH:10]2)c1>>[O-]c1c(Cl)cc(Cl)cc1C[N:21]1CCOCC1.c1cc([C@@H]2CCCN2)nc([C@@H]2CCC[NH+:10]2[H:20])c1 10=20;20,21=21",
"COC(C(F)(F)F)=[O+:21][H:20].OB(c1cccc(O)c1)[O-:10]>>COC(C(F)(F)F)=[O:21].OB(c1cccc(O)c1)[O:10][H:20] 10=20;20,21=21",
"CN(C)C1CC[NH:10]CC1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CN(C)C1CC[NH+:10]([H:20])CC1.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CSC(C)=[NH:10].O=C(c1cccc([N+](=O)[O-])c1)[O:21][H:20]>>CSC(C)=[NH+:10][H:20].O=C(c1cccc([N+](=O)[O-])c1)[O-:21] 10=20;20,21=21",
"COC([OH2+])(C(F)(F)F)[O-:10].Cc1[nH]cc[n+:21]1[H:20]>>COC([OH2+])(C(F)(F)F)[O:10][H:20].Cc1[nH]cc[n:21]1 10=20;20,21=21",
"COc1ccc2c(c1)nnn2[O-:10].C[C@H]1O[C@H](O[C@H]2CC[C@H]([n+]3ccc(N)nc3[O:21][H:20])O[C@@H]2C)[C@H](O)[C@@H](O)[C@@H]1[NH+](C)C>>COc1ccc2c(c1)nnn2[O:10][H:20].C[C@H]1O[C@H](O[C@H]2CC[C@H]([n+]3ccc(N)nc3[O-:21])O[C@@H]2C)[C@H](O)[C@@H](O)[C@@H]1[NH+](C)C 10=20;20,21=21",
"CC1=Nc2ccccc2N(C)/C1=[O+:21]\[H:20].CS(=O)(=O)Nc1ccc(CC([NH3+])C(=O)[O-:10])cc1>>CC1=Nc2ccccc2N(C)C1=[O:21].CS(=O)(=O)Nc1ccc(CC([NH3+])C(=O)[O:10][H:20])cc1 10=20;20,21=21",
"CC[N:10](CC)NC.[O-]c1ccc(F)cc1C[N+:21]1([H:20])CCCCC1>>CC[N+:10](CC)(NC)[H:20].[O-]c1ccc(F)cc1C[N:21]1CCCCC1 10=20;20,21=21",
"Oc1cccc(CC[NH2:10])c1O.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Oc1cccc(CC[NH2+:10][H:20])c1O.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCCNc1cc[nH+]c([S:21][H:20])n1.C[NH:10]CCc1ccccc1>>CCCCNc1cc[nH+]c([S-:21])n1.C[NH+:10](CCc1ccccc1)[H:20] 10=20;20,21=21",
